US05641883
3-Hept-4-ylamino-8-t-butyl-1-oxaspiro(4,5)-decane (compound 99)
To 3-amino-8-t-butyl-1-oxaspiro(4,5)-decane (1.12 g, 5 mmol) and heptane-4-one (0.6 g, 5.25 mmol) in dry methanol (20 ml) was added zinc chloride (0.41 g, 3 mmol). The mixture was stirred at room temperature for 5 minutes and sodium cyanoborohydride 0.38 g, 6 mmol) was added and the resulting heterogeneous mixture was stirred at room temperature overnight. The solvent was then stripped off in vacuo, toluene (50 ml) and 2N NaOH (50 ml) was added. The aqueous phase was extracted twice with toluene (2×50 ml) and the combined organic layers were dried (MgSO4) and concentrated in vacuo. The resulting oil was purified by flash chromatography to give a pale yellow oil (1.12 g). nD :1.4726.

reactant | 3-amino-8-t-butyl-1-oxaspiro(4,5)-decane | 5 mmol, 1.12 g | NC1COC2(C1)CCC(CC2)C(C)(C)C | C13H25NO
reactant | heptane-4-one | 5.25 mmol, 0.6 g | CCCC(CCC)=O | C7H14O
reactant | sodium cyanoborohydride | 6 mmol, 0.38 g | C(#N)[BH3-].[Na+]
reactant | NaOH | 2N, 50 ml | [OH-].[Na+]
solvent | methanol | 20 ml | CO | CH4O
catalyst | zinc chloride | 3 mmol, 0.41 g | [Cl-].[Zn+2].[Cl-]
solvent | toluene | 50 ml | C1(=CC=CC=C1)C | C7H8
product | 3-Hept-4-ylamino-8-t-butyl-1-oxaspiro(4,5)-decane | 1.12 g | CCCC(CCC)NC1COC2(C1)CCC(CC2)C(C)(C)C | C20H39NO
